* Z:\mnt\design.r\spice\examples\1004-2.5.asc
R1 OUT N001 24K
V1 N001 0 PULSE(0 5 100u 10n 10n 500u 1)
XU1 OUT 0 LT1004-2.5
.tran 700u
.lib LTC3.lib
.backanno
.end
