* Z:\mnt\design.r\spice\examples\1432-3.3.asc
C1 N002 N005 .02µ
C2 N004 N005 .03µ
C3 N003 N005 .1µ
R1 N004 N003 680
C4 N001 N005 10µ
L1 N005 N006 50µ
R2 OUT N006 13m
V1 IN 0 5
C5 OUT 0 390µ Rser=.1
D1 0 N005 1N5818
D2 OUT N001 1N4148
XU1 N004 N002 N005 IN N001 LT1271
XU2 N006 OUT IN N001 N005 N004 0 0 LT1432-3.3
Rload OUT 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LT1271.sub
.lib LT1432-3.3.sub
.backanno
.end
