* Z:\mnt\design.r\spice\examples\1634-2.5.asc
XU1 N002 0 LT1634-2.5
V1 N001 0 3
R1 N001 N002 50K
.dc temp -40 80 .1
.lib LTC3.lib
.backanno
.end
