* Z:\mnt\design.r\spice\examples\1754-3.3.asc
V1 IN 0 2.6
C1 N001 N002 1µ
C2 OUT 0 10µ
Rload OUT 0 100
XU1 OUT 0 IN N002 IN N001 LTC1754-3.3
.tran 1m startup
.lib LTC1754-3.3.sub
.backanno
.end
