* Z:\mnt\design.r\spice\examples\1067-50.asc
V1 +V 0 3.3
V3 IN 0 AC 1
R21 N007 N004 10K
R31 N005 N004 200K
Rin2 N004 IN 200K
RL1 N006 N005 200K
R32 N008 N006 10K
R42 OUT N006 200K
XU1 +V N002 N002 N005 N007 N004 N006 N008 OUT N003 N003 0 N001 LTC1067-50 fclk=500k
C1 0 N001 1µ
.ac lin 250 8K 12K
.lib LTC7.lib
.backanno
.end
