* Z:\mnt\design.r\spice\examples\1085-5.asc
V1 IN 0 PWL(0 0 1 10) Rser=0.1
Rload OUT 0 10
C1 OUT 0 10µ
XU1 0 OUT IN LT1085-5
.tran 1
.lib LT1083.lib
.backanno
.end
