* Z:\mnt\design.r\spice\examples\1107-5.asc
L1 IN N001 33µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C2 OUT 0 100µ Rser=0.02
V1 IN 0 3
XU1 IN IN N001 0 0 N002 N003 OUT LT1107 top=220K bot=73.5K
Rload OUT 0 30
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LT1107.sub
.backanno
.end
